US07312224B2
2.1 4.8 ml of triethylamine are added dropwise to a solution of 11.0 g of 2-hydroxycyclohexanone and 9.6 g of malononitrile in 25 ml of methanol, and the mixture is stirred at room temperature for a further 4 hours. The crystals which deposit are separated off and washed with methanol, giving 12.8 g of 2-amino-4,5,6,7-tetrahydrobenzofuran-3-carbonitrile (“BA”), m.p. 179°.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxycyclohexanone | 11.0 g | OC1C(CCCC1)=O | C6H10O2
reactant | malononitrile | 9.6 g | C(CC#N)#N | C3H2N2
solvent | methanol | 25 ml | CO | CH4O
product | 2-amino-4,5,6,7-tetrahydrobenzofuran-3-carbonitrile | 12.8 g | NC=1OC2=C(C1C#N)CCCC2 | C9H10N2O
